US06235731B1
Synthesis of N-[1-(phenylaminocarbonylmethyl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride
To a solution of N-[1-(phenylaminocarbonylmethyl)-piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in chloroform-methanol (1:1) was added 2 ml (8.0 mM) of 4N-HCl/ethyl acetate. The solvent was distilled off under reduced pressure and the residue was diluted with ethanol/ether ({fraction (1/10)}). The resulting crystals were collected by filtration and rinsed with ethanol and diethyl ether to provide the title compound as orange-colored crystals (506 mg, 60%).

reactant | N-[1-(phenylaminocarbonylmethyl)-piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | C1(=CC=CC=C1)NC(=O)CN1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C24H25N5O2S
reactant | HCl ethyl acetate | Cl.C(C)(=O)OCC
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | N-[1-(phenylaminocarbonylmethyl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | 506 mg, 60% | Cl.Cl.C1(=CC=CC=C1)NC(=O)CN1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C24H25N5O2S.2ClH/c30-22(27-18-5-2-1-3-6-18)16-28-11-9-17(10-12-28)14-26-24(31)20-13-19-15-25-21-7-4-8-23(32-20)29(19)21;;/h1-8,13,15,17H,9-12,14,16H2,(H,26,31)(H,27,30);2*1H
